US08633189B2
Ethyl 3-(3-cyclopentyl-4-methoxycarbonyloxy-phenyl)propanoate (920 mg, 2.87 mmol) was dissolved in H2SO4 (2.2 mL) and the reaction mixture was cooled to −2° C. internal temperature. KNO3 (348 mg, 3.45 mmol) was added in portions over 1 h maintain the internal temperature at 0° C. After 1 h at 0° C. the reaction mixture was poured over ice (30 mL) and partitioned between dichloromethane/water and separated. The organic layer was washed twice with a saturated aqueous NaHCO3, dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (0-40% ethyl acetate/hexanes) afforded ethyl 3-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)propanoate (827 mg, 76% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.96 (s, 1H), 7.53 (s, 1H), 4.04 (q, J=7.1 Hz, 2H), 3.86 (s, 3H), 3.11 (t, J=7.6 Hz, 3H), 2.68 (t, J=7.6 Hz, 2H), 1.99-1.91 (m, 2H), 1.82-1.75 (m, 2H), 1.69-1.61 (m, 2H), 1.58-1.53 (m, 2H), 1.15 (t, J=7.1 Hz, 3H).

reactant | Ethyl 3-(3-cyclopentyl-4-methoxycarbonyloxy-phenyl)propanoate | 2.87 mmol, 920 mg | C1(CCCC1)C=1C=C(C=CC1OC(=O)OC)CCC(=O)OCC | C18H24O5
reactant | KNO3 | 3.45 mmol, 348 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 2.2 mL | OS(=O)(=O)O | H2O4S
product | ethyl 3-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)propanoate | 827 mg, 76% yield | C1(CCCC1)C=1C(=CC(=C(C1)CCC(=O)OCC)[N+](=O)[O-])OC(=O)OC | C18H23NO7
